Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My normal depression and anxiety became worse"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ Consult ED note:

"ID: 
___ y/o ___ sophomore with a triple science major,
presenting with depression, hopelessness, and suicidal ideation
with plan to jump off building and who says, "I thought if I
committed suicide someone would find the note on my body".

HPI:
Patient reports she had never been depressed or anxious until
coming to the ___ to start college. She says she had some
depression over freshman year but never sought help and after
going home for ___ break felt much better. She then did well
until this ___ when she was taking multiple difficult courses
and pushing herself with only 4 hours of sleep. She felt she
never recovered, and in the ___ became even more depressed. In
last five days has felt acutely worse and started to write a
suicide note on her phone, with the intention of either sending
it to a friend before making an attempt or having someone find 
it
on her body. She also notes that she has been . Per ___ 
___, at ___, confirms long hx of depression
which intensified at start of the semester. She has seen him
twice and Dr. ___. She is a triple major, and per ___, very overextended.SHe Walked in and was seen urgently by
student health in late ___, started on Prozac but --> N/V/D,
stopped ___, started mirtazapine, with which somatic sx
improved. She has had passive SI all semester (imagining jumping
off building) and increasingly felt she couldn't resist these
urges. On ___, she missed a paper deadline, which is when she
started writing suicide note. She told Mr. ___ she  has been
making lists of places to kill herself which she did not report
to me. She confirms her safety plan for the weekend had been to
do school work but she can't concentrate, and she also told Mr.
___ she would feel further anger with herself and more likely
to act on suicidal thoughts if that happened. She currently says
she feels she would not want to kill herself as it would upset
her family, but acknowledges that she hasn't felt confident she
could stop herself if urges return. Pt describes a lot of shame
about her grades with excessive guilt. She has lost weight and
has poor sleep nearly every day. She has not noticed any
psychomotor agitation or retardation. She does feel exhauste 
most
of the time. She denies an irritable or expansive mood, 
increased
goal directed activity, decreased need for sleep, or racing
thoughts.
No Ah, VH, or paranoia. Significan anhedonia, although she does
enjoy music (corresponds with pop star who recently became more
famous, but in past reportedl communicated with her) and likes
her labs. No substance use or other hanges in meds. Getting
mostly B's this year but got A's last year. In past she and
family have considered her being a physician but at present she
thinks she would prefer doing research (majoring in biology,
chemistry, and biochemistry). Self injurious behavior as below.
She was vomiting most days when on fluoxetine, but since switch
to remeron has not vomited in about a week. Denies trauma, but
sees herself as an anxious person but is not jumpy, denies
flashbacks, nightmares. 

ROS:
Psychiatric as above. No sob, cp. Reports nausea and vomiting
improved since being off fluoxetine but often vomits once a day
after eating. No skin changes, rashes, diarrhea. No cough or
cold. Just finished menstruation. All systems otherwise
negative."

ED Course: Patient remained in good behavior control. No 
chemical
or physical restraints administered. 

Upon interview today on Deac 4, interview was conducted with
___ interpreter at the request of the patient (though was
minimally utilized). Patient reports that she thinks it is her
"normal depression and anxiety" that brought her in. Patient
reports ongoing SI with plan of jumping off the window or 
jumping
in front of a car. Patient states that she is unsure if she 
feels
safe at this time, but is open to trying to speak with staff if
she feels unsafe. Patient feels that while she has thoughts of
suicide in "every moment", she is able to control herself while
on the unit. Patient endorses depressed mood, anhedonia,
fatigue/loss of energy, worthlessness/guilt, diminished
concentration, hopelessness, and recurrent thoughts of death.
Regarding sleep, patient states she is able to have better
quality of sleep while using Mirtazapine. Patient also reports
having panic attacks 1x/week. Patient describes having shortness
of breath, heart palpitations, dizziness, and inability to
control herself from shaking that last approximately 20 minutes.
This last occurred 2 days ago. 

Regarding eating, patient states the Mirtazapine has helped her
appetite significantly. Patient admits that after she eats she
will sometimes physically feel uncomfortable and will have urges
to restrict or purge. However, she states these urges and
feelings of guilt after eating are momentary, and she is able to
continue eating because she knows it is important.

=============================
PSYCHIATRIC REVIEW OF SYSTEMS
=============================
PSYCHIATRIC: 
Positive per HPI. Denies the following:
- appetite/weight change,hypersomnia/insomnia, psychomotor
agitation/retardation, delusions, thought 
broadcasting/insertion,
hallucinations, elevated/irritable mood, increased
activity/energy, decreased need for sleep, grandiosity, 
increased
speech, racing thoughts, distractibility, increase in
goal-directed activity/psychomotor agitation, social/economic
indiscretion, panic attacks, phobias, rumination, obsessions,
compulsions, nightmares, flashbacks, hypervigilence, avoidance.

MEDICAL
10-point ROS was negative, including: Fever, headache, eye pain,
hearing deficit, chest pain, shortness of breath, abdominal 
pain,
constipation, diarrhea, MSK pain
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY

All histories as per Dr. ___ ___ Consult ED
note, reviewed with patient, and updated as appropriate:
========================
- Past diagnoses: Denies previous diagnoses
- Hospitalizations: Denies
- Psychiatrist: ___, MD ___ student health psychiatrist)
- Therapist: ___ (___ student health therapist)
- Medication and ECT trials: Tried Prozac in past (but
discontinued on ___ due to N/V/D)
- Self-injurious behaviors: bites self when feeling anxious and
says that biting regrounds her; has thought about cutting self
but doesn't want to leave scars. Does not pull hair or engage in
any other sib.
- Suicide attempts: one prior reported by ED team but this may
have been miscommunication; she denied to me and to ___ mental
health providers.
- Harm to others: Denies
- Trauma: Denies

====================
PAST MEDICAL HISTORY
====================
- PCP: ___
- ___ of head trauma: Denies
- Hx of seizure: Denies
- PMHx: Seasonal allergies w congestion, seen by PCP in past for
mites causing itching
- LMP: this month
 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Will drink socially, no h/o withdrawals, seizures, detox
admissions
- Tobacco: Occasionally smokes cigarettes when feeling 
depressed,
last smoked yesterday ___ cigarettes)
- Cannabis: Denies
- Illicits: Denies

================
FORENSIC HISTORY
================
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies

==============
SOCIAL HISTORY
==============
- B/R: Born in small town in ___ but soon after moved to
___
- Family: parents are divorced, only child; Father is very
wealthy and per ___ notes, there may have been conflicts around
his daughter's role, but she denied this, saying only they were
not close. She feels close to her mother
- Relationship status: Single; Likes a ___ ___ star
___ with whom she's had some contact per BU notes, they
describe her as "infatuated" with him
- Primary supports: Went to high school at ___ and enjoyed it, had a lot of friends, but has found
adjustment to ___ difficult; reports feeling lonely at this time
- Housing: lives off campus in an apartment with two friends
- Education: ___ at ___, triple major (biology, chemistry,
biochemistry and molecular biology/biotechnology)
- Employment/income: Family is financial supportive
- Spiritual: Denies
- Access to weapons: Denies
 
Family History:
==========================
FAMILY PSYCHIATRIC HISTORY
==========================
- ___ Dx: Aunt with depression
- ___ Hospitalizations: Unknown
- ___ Treatment Hx/Med Trials: Unknown
- ___ Hx Suicide: Unknown
 
Physical Exam:
====
EXAM
====
Vital Signs:
T: 98.6, BP: 111/78, HR: 86, RR: 16, 97% RA

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing, able to walk in tandem without difficulty

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function: not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___" (unable to
recall the third president, though patient is not originally 
from
the ___) 
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "don't judge the
people by their appearance"
     - bicycle/train: "both vehicles"
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS:
- Appearance: no acute distress, Asian female appearing stated
age, adequate hygiene and grooming, wearing hospital gown and
glasses
- Behavior: calm, cooperative, pleasant, forthcoming, no
psychomotor agitation or retardation, appropriate eye contact,
good posture
-Mood: "normal"
- Affect: dysthymic, reactive
- Speech: normal rate, soft volume, and prosody 
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: endorsing ongoing SI, denies HI, no evidence
of paranoia, denies AVH, not appearing to be attending to
internal stimuli
- Judgment and Insight: Poor/poor

 
Pertinent Results:
================================
LABS, IMAGING, AND OTHER STUDIES
================================
CBC, chem 7 unremarkable
Ca, Mg Ph all wnl
EKG sinus at 62, QRS 104, QTC 394
serum tox: neg
urine tox: negative

___ 03:35PM URINE  HOURS-RANDOM
___ 03:35PM URINE  HOURS-RANDOM
___ 03:35PM URINE  HOURS-RANDOM
___ 03:35PM URINE  UHOLD-HOLD
___ 03:35PM URINE  GR HOLD-HOLD
___ 03:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:35PM   GLUCOSE-100 UREA N-9 CREAT-0.6 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-24 ANION GAP-13
___ 12:35PM   estGFR-Using this
___ 12:35PM   CALCIUM-9.4 PHOSPHATE-3.0 MAGNESIUM-2.0
___ 12:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:35PM   WBC-7.1 RBC-3.96 HGB-12.1 HCT-37.6 MCV-95 
MCH-30.6 MCHC-32.2 RDW-11.9 RDWSD-41.5
___ 12:35PM   NEUTS-63.3 ___ MONOS-5.9 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-4.46 AbsLymp-2.05 AbsMono-0.42 
AbsEos-0.08 AbsBaso-0.02
___ 12:35PM   PLT COUNT-___. LEGAL & SAFETY:  
Patient was admitted to ___ on ___. She signed a 
Conditional Voluntary form which was reviewed by the admitting 
psychiatrist and accepted. She was placed on 5 minute checks 
with restricted access to sharps, but after being monitored by 
staff and the treatment team as being without acute 
behavioral/safety concerns, she was increased to 15 minute 
checks and granted monitored sharps access. She remained unit 
restricted due to ongoing suicidal ideation and poor insight.

2. PSYCHIATRIC

#) Major depressive disorder, recurrent, severe and #) 
Unspecified anxiety disorder
At the time of admission to ___, patient's presentation 
was notable for ongoing suicidal ideation, inability to contract 
for safety, depressed mood, anhedonia, fatigue/loss of energy, 
worthlessness/guilt, poor concentration, hopelessness, recurrent 
thoughts of death, biting wrists as a coping mechanism, anxiety 
regarding academic work, and history of being extremely 
sensitive to medications (nausea/vomiting/diarrhea on very low 
dose of fluoxetine, being very sedated on very low dose of 
mirtazapine). She also had profound poor insight, continuing to 
maintain that the only way she could find value in herself would 
be to complete all three majors, despite knowing that so far she 
has been unable to successfully maintain her grades and that 
this would unlikely change.

Treatment team provided her with daily individual, group, 
milieu, and occupational therapy, and focused on re-orienting 
the source of self-esteem to be internal rather than so heavily 
dependent on external validation of needing to succeed 
academically with an unrealistic goal of graduating as a triple 
science major. In addition, given her high sensitivity to past 
trials of antidepressants, ongoing depressive and anxiety 
symptoms, she was offered sertraline to target the symptoms with 
the hopes that it would be better tolerated in terms of side 
effects. After the risks/benefits of the medication was 
discussed, the patient gave verbal consent and expressed her 
desire to initiate the pharmacotherapy. She was initiated on a 
low dose of 6.25 mg PO daily, which was titrated up to 12.5 mg. 
This medication was tolerated well with positive effect on her 
mood and anxiety. She was also offered diphenhydramine 12.5 mg 
PO QHS PRN anxiety/insomnia and ramelteon 8 mg PO QHS PRN 
insomnia, which she utilized and tolerated with good effect.

#) Unspecified eating disorder
At time of admission, patient reported a history of urges to 
restrict and purge, but denied any restricting/purging 
behaviors. Her BMI was noted to be 19.8 and the staff did not 
witness any behaviors concerning for an active eating disorder.

3. MEDICAL
#) No acute issues during hospitalization.

4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was noted to be appropriate 
and pleasant in the milieu.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Treatment team was in communication with pt's mother regarding 
hospital treatment course and pt's progress while hospitalized. 
The team was also in touch with ___ Health 
Services and coordinated a re-entry appointment prior to 
discharge from hospital.

#) INTERVENTIONS
- Medications: discontinuation of Mirtazapine, initiation of 
Zoloft 12.5 mg 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: pt was set up with outpatient 
psychiatry and therapy appointments 
- Behavioral Interventions: encouraged DBT skills, mindfulness, 
positive coping skills
-Guardianships: none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself due to worsening depression 
with suicidal ideation. Her static factors noted at that time 
include age and single status.  The modifiable risk factors were 
also addressed at that time, including suicidal ideation with 
plan, hopelessness, and no established outpatient treatment. 
These were addressed with individual, group, and milieu therapy, 
initiate of antidepressant therapy, and coordination of 
outpatient psychiatric care.  Finally, the patient is being 
discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, reality testing 
ability, lack of suicidal ideation, no history of substance 
abuse disorder. Overall, the patient is not at an acutely 
elevated risk of self-harm nor danger to others due to acutely 
decompensated psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 3.75 mg PO QHS 

 
Discharge Medications:
1.  Sertraline 12.5 mg PO DAILY depressed/anxious mood 
RX *sertraline 25 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*14 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD recurrent, severe, no psychotic features
Anxiety nos

 
Discharge Condition:
mental status: clear and coherent
level of consciousness: alert and interactive
activity status: ambulatory, independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___